US05011851
A mixture of methyl [3-[[(4,5-diphenyl-1H-imidazol-2-yl)thio]methyl]phenoxy]acetate (2.00 g, 4.6 mmol), lithium hydroxide monohydrate (586 mg, 14 mmol), methanol (35 mL) and water (10 mL) was stirred at room temperature for 2 hours. The solvent was evaporated, the residue diluted with water and 2N HCl solution added to pH=7. A white solid was filtered off and recrystallized from aqueous DMF to give [3-[[(4,5-diphenyl-1H-imidazol-2-yl)thio]methyl]phenoxy]acetic acid (1.33 g, 69%), m.p. 233°-235° C.

reactant | methyl [3-[[(4,5-diphenyl-1H-imidazol-2-yl)thio]methyl]phenoxy]acetate | 4.6 mmol, 2.00 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCC=1C=C(OCC(=O)OC)C=CC1 | C25H22N2O3S
reactant | lithium hydroxide monohydrate | 14 mmol, 586 mg | O.[OH-].[Li+]
reactant | methanol | 35 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | [3-[[(4,5-diphenyl-1H-imidazol-2-yl)thio]methyl]phenoxy]acetic acid | 1.33 g, 69% | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCC=1C=C(OCC(=O)O)C=CC1 | C24H20N2O3S
